Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue x2 months, anemia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ without significant PMH referred to ED by PCP for fatigue, 
DOE, presyncope, anemia (___) on ___. She describes 
fatigue since ___. Pt reports episode of weakness and 
dizziness while taking just 3 steps at home 6 days prior to 
presentation; presyncope was relieved by sitting down at edge of 
tub. She denies LOC. She endorses DOE brought on by walking a 
few steps. She went back to work on ___, and noted DOE just 
walking up stairs at work, which is new for her. She denies 
chest pain, SOB at rest. She denies any bloody or tarry stools, 
hematuria. She does recall that she noted increased bruising 
last year, which seems to have resolved. Denies increased 
mucosal bleeding. Endorses chills over the past weekend, without 
fevers. She has had hot flash-like episodes over the past 3 
months, and notes that she is well beyond menopause. Denies 
abdominal pain, chest pain. Endorses ___ years of progressive 
reflux, for which she takes Pepcid or omeprazole. Denies weight 
loss, night sweats. She "infrequently" takes NSAIDs for the past 
___ years, maybe takes ibuprofen ___ times per month, ___ 
tablets at a time.

In the ___ ED:
VS 97.5 HR: 78 BP: 177/90 Resp: 18 O(2)Sat: 100 - BP normalized 
without intervention
Guaiac positive

GI consulted - anticipate EGD

On arrival to the floor, she endorses headache, for which she 
typically takes fiorinol. She received fioricet in ED with 
incomplete relief. Headache is ___, retroorbital and at base of 
her skull. She notes ongoing heartburn.

ROS: All else negative
 
Past Medical History:
Osteopenia
Depression
 
Social History:
___
Family History:
Brother had an MI at age ___, recovered well. Other brother had 
polyps. Denies family history of malignancy, htn, DM.
 
Physical Exam:
VS 97.7 PO 136 / 62 R Lying 60 18 100 RA 
Gen: Very pleasant, interactive, NAD
HEENT: PERRL, EOMI, clear oropharynx, MMM, +conjunctival pallor
Neck: Supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, nontender, nondistended, no rebound or guarding, no 
hepatomegaly, +bowel sounds
GU: No foley
Ext: WWP, trace bilateral pitting edema, no clubbing or cyanosis
Neuro: grossly intact
 
Pertinent Results:
___ 07:03PM   WBC-5.5 RBC-2.46* HGB-7.8* HCT-23.4* MCV-95 
MCH-31.7 MCHC-33.3 RDW-13.6 RDWSD-46.5*
___ 07:03PM   PLT COUNT-259
___ 02:00PM URINE  HOURS-RANDOM
___ 02:00PM URINE  UHOLD-HOLD
___ 02:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 11:05AM   COMMENTS-GREEN TOP 
___ 11:05AM   LACTATE-1.0
___ 10:59AM   GLUCOSE-96 UREA N-17 CREAT-0.8 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-26 ANION GAP-13
___ 10:59AM   estGFR-Using this
___ 10:59AM   ALT(SGPT)-13 AST(SGOT)-17 LD(LDH)-164 ALK 
PHOS-54 TOT BILI-0.4
___ 10:59AM   cTropnT-<0.01
___ 10:59AM   CALCIUM-8.9 PHOSPHATE-4.2 MAGNESIUM-2.3 
IRON-69
___ 10:59AM   calTIBC-313 ___ FERRITIN-26 TRF-241
___ 10:59AM   WBC-7.4 RBC-2.59* HGB-8.0* HCT-24.8* MCV-96 
MCH-30.9 MCHC-32.3 RDW-13.6 RDWSD-46.6*
___ 10:59AM   NEUTS-70.7 LYMPHS-17.6* MONOS-6.8 EOS-4.2 
BASOS-0.3 IM ___ AbsNeut-5.22 AbsLymp-1.30 AbsMono-0.50 
AbsEos-0.31 AbsBaso-0.02
___ 10:59AM   PLT COUNT-287
___ 10:59AM   ___ PTT-27.9 ___ without significant PMH referred to ED by PCP for fatigue, 
DOE, presyncope, anemia (___) on ___, found to be guaiac 
positive, with likely upper GI source of bleeding.

# Acute blood loss anemia, gastrointestinal bleeding: Pt was 
seen by gastroenterology and they recommended discharge with 
outpatient f/u at ___ for EGD/colonoscopy. She received 2u 
pRBCs. She felt well on discharge.

# Depression: paroxetine continued.

# HSV suppression: Continued acyclovir.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 50 mg PO DAILY 
2. Acyclovir 400 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastrointenstinal bleeding
iron deficiency anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were hospitalized with iron-deficiency anemia in the setting 
of likely gastrointestinal blood loss. You were treated with 2 
blood transfusions and the gastroenterology consults met with 
you and recommended that you see a gastroenterologist at ___ 
Vanguard for further evaluation.
 
Followup Instructions:
___